Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
morphine / morphine
 
Attending: ___.
 
Chief Complaint:
Left knee pain
 
Major Surgical or Invasive Procedure:
Left knee aspiration
 
History of Present Illness:
___ w/NPH, Dementia, gout presents from rehab with worsening 
knee pain and confusion. 

Pt was admitted from rehab to medicine service ___ for same 
complaints. Pt was seen by neuro who felt that although he 
likely has NPH there is no benefit to VP shunt given 
chronic/stable changes. Progressive neurocognitive decline  felt 
to be more likely due to dementia, possibly Alzheimers. Acute 
changes felt to be due to residual toxic/metabolic 
encephalopathy after multiple infections vs. iatrogenic delirium 
from narcotics and heavy dose of oral 
steroids given at rehab. TSH, Vitamin B12, folate all WNL. CXR 
unrevealing. UA clean. Patient had returned back to his baseline 
prior to discharge and was instructed to follow-up with Dr. ___ 
___ (Neurocognitive). 

Regarding knee pain pt was seen by rheum and tap on ___ found 
gout crystals. Ortho performed depo medrol injection on ___. Pt 
discharge with standing naproxen and oxycodone prn.

In ED ___ consulted. Will follow on floor. Pt given 1Lns and 
naproxen.

On arrival to the floor pt reports L knee pain, worse than at 
discharge. Unable to bear weight. States he has had knee 
injections in the past and they did not provide relief.

ROS: +as above, otherwise reviewed and negative
 
Past Medical History:
- C4-6 fusion, with complications, and since has been declining 
(___)
- DM II
- Hypertension
- Hyperlipidemia
- Gout
- Hx of alcohol abuse
- TURP (___)
- Knee replacement (___)
- NPH w/ataxia and incontinence
- choledocholithiasis (s/p lap chole)
- dementia
- ataxia
 
Social History:
___
Family History:
No history of psychiatric or neurological diseases the patient 
is aware of.

 
Physical Exam:
On Admission:
Vitals: T:98.2 BP:107/75 P:102 R:16 O2:94%ra  
PAIN: 9
General: nad
EYES: anicteric
Lungs: clear
CV: rrr no m/r/g
Abdomen: bowel sounds present, soft, nt/nd
Ext: no e/c/c
Skin: no rash
Neuro: alert, oriented x3, follows commands
MSK: L knee with small effusion, pain with palpation and 
flexion/extension, no reddness or increased warmth

On Discharge:
Vitals: AF/98.5, 110s-130s/60s-70s, 60s-70s, 18, >97% on RA, 
multiple small formed BMs per day
FSBGs: 120-198
Gen: NAD, lying in bed
Eyes: EOMI, sclerae anicteric  
ENT: MMM, OP clear
Cardiovasc: RRR, no edema  
Resp: normal effort, no accessory muscle use, lungs CTA ___.
GI: soft, NT, ND, BS+
MSK: No significant kyphosis. No palpable synovitis. Left knee 
normothermic, at most trace effusion, no pain on palpation along 
joint line or in major bursae around joint, no redness. 
+stiffness with some limitation in ROM owing to pain.
Skin: No visible rash. No jaundice.
Neuro: AAOx3. No facial droop.
Psych: Full range of affect.
GU: No foley.
 
Pertinent Results:
Admission Labs:
___ 06:35PM   GLUCOSE-151* UREA N-20 CREAT-0.9 SODIUM-139 
POTASSIUM-4.6 CHLORIDE-97 TOTAL CO2-27 ANION GAP-20
___ 06:35PM   WBC-11.7* RBC-4.56* HGB-13.3* HCT-39.0* 
MCV-86 MCH-29.2 MCHC-34.1 RDW-15.8*
___ 06:35PM   NEUTS-70.2* ___ MONOS-6.2 EOS-1.7 
BASOS-0.2
___ 06:35PM   PLT COUNT-268
___ 06:51PM   ___ PTT-29.9 ___

Knee radiograph IMPRESSION: 
Background degenerative changes, small effusion. Cortical ill 
definition at superior pole of the patella. Although projection 
is somewhat different prior studies appears new. Differential 
diagnosis includes nondisplaced fracture versus erosion. Suggest 
further assessment with MRI. 

Knee MRI IMPRESSION:
1. Nondiagnostic study due to marked patient motion and early 
termination of the exam.  Assessment for fracture and other 
pathology is limited. 
2. Probable left knee joint effusion. 
3. 20 x 9 mm T2 hyperintense lesion in the distal left femoral 
diaphysis, 
corresponding to the area of calcifications on the ___ radiograph, not fully evaluated, but most compatible with 
an enchondroma. 

JOINT FLUID ASPIRATION
___* ___ Polys-84* ___ Monos-8 Eos-1*
GRAM STAIN-No organisms
CULTURE-No growth
CRYSTALS-None (prior tap showed gout)
 
Brief Hospital Course:
NARRATIVE: 
This is a ___ with DM, HTN, HL, NPH, likely dementia with 
history of toxic/ metabolic encephalopathy, and 
crystal-confirmed gout with recent left knee flare s/p steroid 
injection ___ who presented with worsening left knee pain 
and immobility related to same. He was admitted to the general 
medical service. He was evaluated by orthopedics who performed 
an arthrocentesis and reviewed his imaging studies (radiograph 
and MRI). Arthrocentesis was negative for infection, overall 
less inflammatory than previous aspiration c/w treatment. 
Orthopedics felt that findings on radiograph were so 
unimpressive for patellar fracture as to mitigate need to repeat 
MRI (which was mostly nondiagnostic). Pain medications were 
adjusted to achieve satisfactory analgesia. He worked with ___ 
and was deemed appropriate for STR. In hopes of accelerating his 
recovery, Dr ___ Orthopedics performed another steroid 
injection on the day of discharge. Additional detail/issues as 
below.

PROBLEM BASED:
# Gout
# Osteoarthritis
# Left knee pain: It is thought that his left knee pain is 
multifactorial. Likely related to deconditioning, immobility, 
and osteoarthritis. Gout is certainly a contributor though doubt 
an acute flare at this point after a month of treatment and a 
steroid injection. Initially there was concern for patellar 
fracture or injury, but Orthopedics dispelled this notion. Also, 
cannot rule out other internal derrangement as MRI was poor 
quality. Other inflammatory arthritis was considered, thought 
less likely without other joint involvement. CRP/ESR was 
elevated but this is in setting of UTI, will need to be 
repeated. With stiffness worse in morning, somewhat worst in 
limb girdles, and with inflammatory markers, could consider a 
contribution from PMR. However, given alternative explanations 
for these, thought more prudent to follow up with rheumatology 
as an outpatient if necessary after repeating inflammatory 
markers. Of note, uric acid is appropriately <<6, suggesting 
that allopurinol dosing is appropriate.
- Continue allopurinol at current dose/frequency
- Stopped colchicine; unless evidence of recurrent flare would 
not resume
- Treated with standing indomethacin while here, now 
transitioning to PRN at discharge
- Continue standing tylenol for 2 weeks, then transition to PRN
- Continue TID gabapentin, can consider uptitration as needed
- Continue lidocaine patch to kneecap HS
- Continue ___
- Outpatient followup with Orthopedics on as needed basis (can 
consider repeat MRI, consideration of TKR or arthroscopy PRN).
- Outpatient followup of inflammatory markers ___ weeks after 
UTI resolved, and Rheumatology consult PRN.

# Known incontinence
# Urinary tract infection: He was noted to have foul smelling 
urine. UA positive for infection, and urine culture with proteus 
resistant to ciprofloxacin, sensitive to ceftriaxone and 
Bactrim. Foley catheter was placed at time of urine specimen, 
but was removed after 24 hours (chronically incontinent).
- Continue PO cefpodoxime (avoiding Bactrim given standing 
NSAID), plan for 14 day course, of which he will have 11 days 
remaining after discharge.
- No test of cure required.

# Hypomagnesemia: Noted to have Mg below normal. Unclear 
etiology, though on multiple medications which can affect renal 
electrolyte transport. Started oral repletion with 
stabilization.
- Continue Magnesium Oxide 400 BID
- Continue intermittent electrolyte monitoring

# Likely dementia
# Stable NPH with urinary incontinence: Mental status was at 
baseline with good attention and near term memory. He remained 
incontinent, which is his baseline. He had a condom catheter 
some of the time while he was here.

# HTN: Stable BPs. Continue home Toprol XL.

# DM: Stable. FSBGs tolerable. He was treated with Lantus and 
SSI while here. Metformin was resumed at discharge.
- After steroid injection, some worsening in hyperglycemia may 
be observed
- Monitor FSBGs AC and HS and consider initiation of insulin 
therapy if necessary

TRANSITIONAL ISSUES:
# Rheumatology workup: 
- Follow up of inflammatory markers ___ weeks after completing 
course of treatment for UTI
- Follow up ___, CCP which were pending at time of DC
- Outpatient rheumatology consultation as needed
# Code status: DNR
# CONTACT: ___ daughter ___ ___

BILLING: >30 minutes spent coordinating patient's discharge from 
the hospital.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Allopurinol ___ mg PO DAILY 
2. Omeprazole 40 mg PO DAILY 
3. Simvastatin 10 mg PO QPM 
4. OxycoDONE (Immediate Release)  5 mg PO Q4H:PRN pain 
5. MetFORMIN (Glucophage) 1000 mg PO BID 
6. Heparin 5000 UNIT SC TID 
7. Senna 17.2 mg PO QHS 
8. Metoprolol Succinate XL 25 mg PO DAILY 
9. Acetaminophen 650 mg PO Q6H:PRN pain 

 
Discharge Medications:
1. Allopurinol ___ mg PO DAILY 
2. Metoprolol Succinate XL 25 mg PO DAILY 
3. Omeprazole 40 mg PO DAILY 
4. Senna 17.2 mg PO BID 
5. Simvastatin 10 mg PO QPM 
6. MetFORMIN (Glucophage) 1000 mg PO BID 
7. OxycoDONE (Immediate Release)  ___ mg PO Q8H:PRN Severe pain 

RX *oxycodone 5 mg ___ tablet(s) by mouth Every 8 hours as 
needed Disp #*30 Tablet Refills:*0
8. Cefpodoxime Proxetil 400 mg PO Q12H Duration: 11 Days 
9. Gabapentin 300 mg PO QHS 
10. Gabapentin 100 mg PO QAM 
11. Gabapentin 100 mg PO NOON 
12. Indomethacin 25 mg PO TID:PRN Knee pain 
13. Lidocaine 5% Patch 1 PTCH TD QPM 
14. Magnesium Oxide 400 mg PO BID 
15. Acetaminophen 1000 mg PO TID Duration: 2 Weeks 
Take TID for 2 weeks. Thereafter use only as needed for pain. Do 
not exceed 4g acetaminophen daily. 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Left knee pain
Monoarticular gout
Osteoarthritis
Mild dementia
NPH
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Bedbound.
 
Discharge Instructions:
You were re-evaluated for your ongoing left knee pain.  
Orthopedics drained fluid from your knee, which showed evidence 
of mild inflammation but no infection.  Your pain is likely 
multifactorial to include gout, osteoarthritis, tendonitis, and 
surrounding muscular weakness.  It is very important that you 
take your pain medications and work well with ___.

You were also diagnosed with a UTI. You were given antibiotics 
and responded well to this. You will need to complete a course 
of treatment after discharge.
 
Followup Instructions:
___